US04156702
Dimethyl Adipate (DMA)--80.0 g.
An adhesive as described in Example 2 was prepared except that 1.0 g. of PMDA, 1.5 g. of E/DMAEMA resin and an additional 4.75 g. of Piccoumaron® 410 HL were added.

reactant | PMDA | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
reactant | DMAEMA | CC(=C)C(=O)OCCN(C)C | C8H15NO2
product | Dimethyl Adipate | C(CCCCC(=O)OC)(=O)OC | C8H14O4
